US04164487
(A) Preparation of 2,6-dimethylol-p-t-butylphenol (DMPTBP)
200 grams (1.331 moles) of para-t-butylphenol and 400 ml. of water were placed in a 2-liter, 3-neck, round bottom flask fitted with a thermometer, a stirrer and a dropping funnel. The flask was placed in a water bath, the contents stirred and 106.6 grams (1.331 moles) of 50% aq. NaOH added. The temperature of the resulting slurry was adjusted to 30° C. (by cooling) and 227 grams (~2.8 moles) of 37% formalin added. The mixture was heated to 60° C. and stirred at that temperature for 4 hours. It was then cooled to 35° C. and 444 ml. (1.331 moles) of 3 N aq. HCl were added. Enough dilute acetic acid was then added to make the mixture just acid. 100 ml. of chloroform was stirred in and the phases allowed to separate. The chloroform layer, containing essentially all of the product resin, was removed, washed once with water, dried by azeotropic distillation and stripped in vacuo. 276 grams (99% yield) of the title product was obtained as a resinous residue which crystallized on standing; equivalent wt. 220 grams per phenolic --OH (vs 212, theoretical).

reactant | para-t-butylphenol | 1.331 moles, 200 grams | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | NaOH | 1.331 moles, 106.6 grams | [OH-].[Na+]
reactant | formalin | ~2.8 moles, 227 grams | C=O | CH2O
reactant | HCl | 1.331 moles, 3 N | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,6-dimethylol-p-t-butylphenol | 276 grams, 99% yield | C(O)C1=C(C(=CC(=C1)C(C)(C)C)CO)O | C12H18O3
